US08614234B2
To a stirred solution of methyl 5-(4-{[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thio}pyridin-2-yl)-1H-pyrrole-3-carboxylate (86 mg, 0.18 mmol) in a mixture of solvents THF/MeOH (5 ml/5 ml) was added 2 ml of 1M NaOH (2 mmol) solution. The mixture was heated in a 66° C. bath for 7 hours, cooled to room temperature and poured into 100 ml of water. 2M HCl was added until pH=3. The resulting precipitates were filtered, washed with water, and dried in vacuo to give 5-(4-{[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thio}pyridin-2-yl)-1H-pyrrole-3-carboxylic acid as light brown solid. Yield: 73 mg, 88%.

reactant | methyl 5-(4-{[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thio}pyridin-2-yl)-1H-pyrrole-3-carboxylate | 0.18 mmol, 86 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)SC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C25H21FN4O3S
reactant | THF MeOH | 5 ml | C1CCOC1.CO
reactant | NaOH | 2 mmol, 1M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 5-(4-{[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thio}pyridin-2-yl)-1H-pyrrole-3-carboxylic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)SC1=CC(=NC=C1)C1=CC(=CN1)C(=O)O | C24H19FN4O3S
